US07790747B2
6-Bromo-5,7-dimethyl-imidazo[1,2-a]pyridine (985 mg, 4.26 mmol) was dissolved in DMF (15 ml). To this solution was added Zn(CN)2 (512 mg, 4.36 mmol), Pd2(dba)3 (40 mg, 0.044 mmol) and DPPF (49 mg, 0.088 mmol). The mixture was heated at 120° C. for 48 h. The mixture was then concentrated under vacuum and the residue was taken into CH2Cl2 (40 ml) and washed with H2O (30 ml×2) and brine (20 ml). The organic layer was concentrated and the residue was purified by column chromatography on silica gel (CH2Cl2/CH3OH, 18:1) to give 5,7-dimethyl-imidazo[1,2-a]pyridine-6-carbonitrile (747 mg, 99%).

reactant | 6-Bromo-5,7-dimethyl-imidazo[1,2-a]pyridine | 4.26 mmol, 985 mg | BrC=1C(=CC=2N(C1C)C=CN2)C | C9H9BrN2
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 4.36 mmol, 512 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.044 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.088 mmol, 49 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 5,7-dimethyl-imidazo[1,2-a]pyridine-6-carbonitrile | 747 mg, 99% | CC1=C(C(=CC=2N1C=CN2)C)C#N | C10H9N3
